US07939536B2
b: Synthesis of 3-(4-fluorophenyl)-5-[2-(2-chlorophenyl)propionylamino]-4-[4-pyrimidinyl]isoxazole
In 5 mL of THF, 0.144 g of 2-(2-chlorophenyl)propionic acid and 0.126 g of CDI were dissolved and stirred at room temperature for an hour. Then 5 mL of THF solution containing 0.237 g of DBU and 0.1 g of 5-amino-3 (4-fluorophenyl)-4-4-pyrimidinyl isoxazole was added and stirred at room temperature for 3 hours. The solvent was distilled off from the reaction solution under reduced pressure, and water was added to the residue which was then extracted with ethyl acetate. The ethyl acetate extract was dried over anhydrous magnesium sulfate, removed of the solvent by distillation under reduced pressure, and the residue was purified on 20 g silica gel chromatography (eluent, chloroform:methanol=50:1). Washing the residue with ether, 0.118 g (yield: 72%) of the title compound was obtained.

reactant | 2-(2-chlorophenyl)propionic acid | 0.144 g | ClC1=C(C=CC=C1)C(C(=O)O)C | C9H9ClO2
reactant | CDI | 0.126 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DBU | 0.237 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-amino-3 (4-fluorophenyl)-4-4-pyrimidinyl isoxazole | 0.1 g | NC1=C(C(=NO1)C1=CC=C(C=C1)F)C1=NC=NC=C1 | C13H9FN4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(4-fluorophenyl)-5-[2-(2-chlorophenyl)propionylamino]-4-[4-pyrimidinyl]isoxazole | 0.118 g, yield: 72% | FC1=CC=C(C=C1)C1=NOC(=C1C1=NC=NC=C1)NC(C(C)C1=C(C=CC=C1)Cl)=O | C22H16ClFN4O2
